US09259470B2
4,6-Dichloropyrimidine (3.06 g, 20.5 mmol) was dissolved in dimethylformamide (“DMF”) (20 mL) and Cs2CO3 (10.0 g, 30.8 mmol) was added. Tetrahydro-2H-pyran-4-amine (1.87 g, 18.5 mmol) combined with DMF (5 mL) was added dropwise. A slight exotherm was observed. After agitating at ambient temperature for 2 hours, product peak was seen in LC/MS. Agitation continued overnight. The mixture was then diluted with ethyl acetate (250 mL) and washed 4 times with water, brine, dried and evaporated to give 6-chloro-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine (2.86 g, 13.4 mmol, 65.2% yield) as a solid.

reactant | 4,6-Dichloropyrimidine | 20.5 mmol, 3.06 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | Cs2CO3 | 30.8 mmol, 10.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Tetrahydro-2H-pyran-4-amine | 18.5 mmol, 1.87 g | O1CCC(CC1)N | C5H11NO
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 mL | CN(C=O)C | C3H7NO
product | 6-chloro-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine | 13.4 mmol, 2.86 g, 65.2% yield | ClC1=CC(=NC=N1)NC1CCOCC1 | C9H12ClN3O
